US05576343
Preparation of Ethyl 2-[2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]ethyl]-6-cyano-1-indoleacetate
2.4 g of 2-[2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]ethyl]-6-indolecarbonitrile was dissolved in 50 ml of N,N-dimethylformamide. 300 mg of 60% sodium hydride was added to the thus prepared solution during stirring under ice cooling, and the resulting mixture was warmed up to room temperature and stirred at the same temperature for 20 minutes. 0.76 ml of ethyl bromoacetate was added to the above mixture during stirring under ice cooling, followed by stirring for 1 hour. The resulting reaction solution was mixed with an ammonium chloride aqueous solution and extracted with a toluene/ethyl acetate mixture, and the resulting organic layer was washed with water and dried. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using a dichloromethane/acetone mixture as an elution solvent. In this way, 2.3 g of the title compound was obtained in a viscous and oily form.

reactant | 2-[2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]ethyl]-6-indolecarbonitrile | 2.4 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)CCC=1NC2=CC(=CC=C2C1)C#N | C26H29N3O3
reactant | sodium hydride | 300 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.76 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]ethyl]-6-cyano-1-indoleacetate | 2.3 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)CCC=1N(C2=CC(=CC=C2C1)C#N)CC(=O)OCC | C30H35N3O5
